US06956049B1
4-Bromo-2-(phenylethynyl)-1,3-thiazole (500 mg, 1.89 mmol) was dissolved in dry THF (10 mL) under argon, cooled to −78° C., then t-butyllithium (1.7 mL of a 1.7M solution in pentane, 2.8 mmol) was added. After 30 min 0.4 mL of the reaction mixture was quenched with saturated NH4Cl and extracted with ethyl acetate. GC/MS of the crude product from this workup and comparison with a GC/MS of authentic 2-(2-phenylethynyl)-thiazole showed the two to be identical. This confirmed that the initial coupling with phenylacetylene (in Example 9) took place at the bromine at the 2 position rather than at the 4 position. The GC/MS also showed that the reaction was not complete. Additional t-butyllithium (1.7 mL of a 1.7M solution in pentane, 2.8 mmol) was added. After 30 minutes iodomethane (0.36 mL, 5.7 mmol) was added to the reaction mixture, and the reaction was allowed to warm to ambient temperature for 16 h. The solvents were then removed in vacuo, and residue dissolved in ethyl acetate (50 mL), washed with water (50 mL), brine (50 mL), dried over Na2SO4, filtered, and concentrated in vacuo. The crude product was purified by column chromatography eluting with hexane, 99:1, 98:2, 97.5:2.5 hexane:ethyl acetate to afford 2-(2-phenylethynyl)-5-methyl-1,3-thiazole (90 mg). 1H NMR analysis of the material showed it to be impure, despite its apparent homogeneity by TLC analysis. The crude compound was dissolved in DMSO and purified by preparative HPLC with a 30 min gradient from 70:30 water:acetonitrile to 100% acetonitrile to afford pure 5-methyl-2-(phenylethynyl)-1,3-thiazole as a white powder (44 mg, 24% yield). M.p. 82–83° C. 1H NMR (CDCl3, 300 MHz) δ 7.85–7.55 (m, 2H), 7.49 (d, J=0.6 Hz, 1H), 7.37–7.32 (m, 3H), 2.49 (s, 3H). MS (ESI) 200.1 (M++H).

reactant | 4-Bromo-2-(phenylethynyl)-1,3-thiazole | 1.89 mmol, 500 mg | BrC=1N=C(SC1)C#CC1=CC=CC=C1 | C11H6BrNS
reactant | t-butyllithium | C(C)(C)(C)[Li]
reactant | iodomethane | 5.7 mmol, 0.36 mL | IC | CH3I
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | pentane | CCCCC | C5H12
product | 2-(2-phenylethynyl)-5-methyl-1,3-thiazole | 90 mg | C1(=CC=CC=C1)C#CC=1SC(=CN1)C | C12H9NS
